US05646140
N-(4-Methoxybenzyl)-N-phenyl-benzene-1, 2-diamine
To a stirred solution of lithium aluminum hydride (1.0 g) in THF (40 ml) cooled to 5° C. was added a solution of 4-methoxy-N-(2-phenylamino-phenyl)-benzamide (5.0 g) in THF (30 ml) over a 45 minute period. After complete addition, the reaction mixture was heated to reflux for 1.5 hrs. The solution was cooled to room temperature and excess lithium aluminum hydride was quenched with ethanol until hydrogen evolution ceased. Saturated agueous sodium hydrogen carbonate (100 ml) was added and the resultant solution extracted with ethyl acetate (3×100 ml). The combined organic extracts were dried with sodium sulfate and filtered through a pad of silica. The silica pad was washed with ethyl acetate (500 ml) and the organic fractions were combined. The filtrate was concentrated in vacuo to a brown oil which solidified on standing to give the title compound. (4.78 g). 1H (300 MHz, CDCl3): d 3.79 (s, 3H), 4.27 (s, 2H), 4.52 (br s, 1H), 5.08 (s, 1H), 6.67-6.74 (m,4H), 6.79-6.86 (m, 3H), 7.04-7.24 (m, 6H); TLC (EtOAc/Hex (1:4)): Rf =0.57.

reactant | lithium aluminum hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-methoxy-N-(2-phenylamino-phenyl)-benzamide | 5.0 g | COC1=CC=C(C(=O)NC2=C(C=CC=C2)NC2=CC=CC=C2)C=C1 | C20H18N2O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-(4-Methoxybenzyl)-N-phenyl-benzene-1, 2-diamine | COC1=CC=C(CN(C=2C(=CC=CC2)N)C2=CC=CC=C2)C=C1 | C20H20N2O
